US07109186B2
A 250 mL round bottom flask was charged with 4-fluoro-2-methylsulfanylbenzaldehyde (5.106 g, 30 mmol), O-methylhydroxylamine hydrochloride (3.758 g, 45 mmol), sodium acetate (6.124 g, 45 mmol), water (50 mL) and THF (75 mL). The reaction mixture was stirred at room temperature for 4 h and taken up into ether (300 mL), washed with water (2×50 mL) and brine (50 mL). The organic phase was dried over anhydrous Na2SO4, filtered and concentrated to give 4-fluoro-2-methylsulfanyl-benzaldehyde-O-methyl-oxime (5.892 g, 99%) as a white solid.

reactant | 4-fluoro-2-methylsulfanylbenzaldehyde | 30 mmol, 5.106 g | FC1=CC(=C(C=O)C=C1)SC | C8H7FOS
reactant | O-methylhydroxylamine hydrochloride | 45 mmol, 3.758 g | Cl.CON
reactant | sodium acetate | 45 mmol, 6.124 g | C(C)(=O)[O-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-fluoro-2-methylsulfanyl-benzaldehyde-O-methyl-oxime | 5.892 g, 99% | CON=CC1=C(C=C(C=C1)F)SC | C9H10FNOS
